US08026234B2
Compound 64: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-1-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and piperidin-1-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15-1.90 (m, 16H) 3.16 (br. s., 6H) 3.32 (s, 3H) 3.96 (s, 3H) 4.14 (t, 2H) 4.48 (quin, 1H) 7.47 (d, 1H) 7.49 (s, 1H) 8.22 (d, 1H) 8.24 (s, 1H) 8.47 (br. s., 1H). [M+H] calc'd for C27H35F2N7O3 544. found 544.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidin-1-amine | N1(CCCCC1)N | C5H12N2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-1-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NN1CCCCC1)C=C2)OC | C27H35F2N7O3
